US07488740B2
1. 5-Chloro-2-(3-(trifluoromethyl)pyridin-2-yl)-[1,8]naphthyridine
Dissolve 2-amino-4-chloronicotinaldehyde (78 mg, 0.5 mmol) and 2-acetyl-3-trifluoromethylpyridine (95 mg, 0.5 mmol) in anhydrous THF (2.0 mL) and cool it to −20° C. under N2 atmosphere. Add in portion t-BuOK (112 mg, 1.0 mmol) to the reaction mixture and stir the mixture at 10° C. for 2 hours. Concentrate the reaction mixture under vacuum, dilute the residue with saturated aq. ammonium chloride (10 mL), filter the solid, wash the solid with water and dry under high vacuum to afford desired product as a cream colored solid.

reactant | 2-amino-4-chloronicotinaldehyde | 0.5 mmol, 78 mg | NC1=C(C=O)C(=CC=N1)Cl | C6H5ClN2O
reactant | 2-acetyl-3-trifluoromethylpyridine | 0.5 mmol, 95 mg | C(C)(=O)C1=NC=CC=C1C(F)(F)F | C8H6F3NO
reactant | t-BuOK | 1.0 mmol, 112 mg | CC(C)(C)[O-].[K+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-(3-(trifluoromethyl)pyridin-2-yl)-[1,8]naphthyridine | ClC1=C2C=CC(=NC2=NC=C1)C1=NC=CC=C1C(F)(F)F | C14H7ClF3N3
